US07405305B2
b) 7-Methyl-4-nitrobenzofuran
Add Amberlyst® 15 ion-exchange resin (36 g) to chlorobenzene (700 mL), and heat the mixture to reflux and azeotrope out water, to dry the resin. Dissolve 2-(2,2-dimethoxyethoxy)-1-methyl-4-nitrobenzene (34.8 g, 144 mmol) in chlorobenzene (125 mL), and add this mixture dropwise to the stirring, refluxing reaction mixture under nitrogen over a 15 minute period. Continue refluxing for 1.5 hours, then cool to room temperature. Filter to remove the resin and concentrate under reduced pressure. Dissolve the residue in hexane and diethyl ether (1:1), then wash with 0.5M aqueous sodium hydroxide and aqueous saturated sodium chloride. Dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Chromatography on flash silica using hexane and ethyl acetate (9:1) and precipitation from hexane and toluene (1:1) yielded 9.7 g (42%) of the title compound as a yellow solid (42%). 1H NMR (400 MHz, DMSO-d6) δ 8.36 (d, 1 H, J=2.0 Hz), 8.12 (d, 1 H, J=8.4 Hz), 7.44 (d, 1 H, J=2.4 Hz), 7.38 (d, 1 H, J=8.8 Hz), 2.59 (s, 3 H).

reactant | water | O | H2O
reactant | 2-(2,2-dimethoxyethoxy)-1-methyl-4-nitrobenzene | 144 mmol, 34.8 g | COC(COC1=C(C=CC(=C1)[N+](=O)[O-])C)OC | C11H15NO5
solvent | chlorobenzene | 125 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 700 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 7-Methyl-4-nitrobenzofuran | 9.7 g | CC1=CC=C(C=2C=COC21)[N+](=O)[O-] | C9H7NO3
